US08957203B2
Step 3: Preparation of 1-(fluoromethyl)cyclopropane-1-sulfonamide
To a solution of tert-butyl (1-(fluoromethyl)cyclopropyl)sulfonylcarbamate (19.8 g, 38.7 mmol) in DCM (100 ml) was added TFA (30 ml, 387 mmol) drop wise at room temperature. The reaction mass was stirred for 2 hr. The reaction mass was evaporated under reduced pressure to get desired compound (6 g, 100%) as off white solid. 1H NMR (400 MHz, CDCl3): δ ppm 4.78-4.66 (d, J=48 Hz, 2H), 2.61 (br, s, 1H), 1.59-1.56 (m, 2H), 1.13-1.10 (m, 2H).

reactant | tert-butyl (1-(fluoromethyl)cyclopropyl)sulfonylcarbamate | 38.7 mmol, 19.8 g | FCC1(CC1)S(=O)(=O)NC(OC(C)(C)C)=O | C9H16FNO4S
reactant | TFA | 387 mmol, 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(fluoromethyl)cyclopropane-1-sulfonamide | 6 g, 100% | FCC1(CC1)S(=O)(=O)N | C4H8FNO2S
